US05214181
Nα -[S-benzyl-N-[2,2-dimethyl-3-(4-methoxybenzylthio)propionyl]-L-cysteinyl]-Nε -benzyloxycarbonyl-L-lysine methyl ester (compound No. 19)
Nα -(S-benzyl-L-cysteinyl)-Nε -benzyloxycarbonyl-L-lysine methyl ester hydrochloride and 2,2-dimethyl-3-(4-methoxybenzylthio)propionic acid were used as starting materials.

reactant | Nα -(S-benzyl-L-cysteinyl)-Nε -benzyloxycarbonyl-L-lysine methyl ester hydrochloride | Cl.COC([C@@H](NC([C@@H](N)CSCC1=CC=CC=C1)=O)CCCCNC(=O)OCC1=CC=CC=C1)=O
reactant | 2,2-dimethyl-3-(4-methoxybenzylthio)propionic acid | CC(C(=O)O)(CSCC1=CC=C(C=C1)OC)C | C13H18O3S
product | Nα -[S-benzyl-N-[2,2-dimethyl-3-(4-methoxybenzylthio)propionyl]-L-cysteinyl]-Nε -benzyloxycarbonyl-L-lysine methyl ester | COC([C@@H](NC([C@@H](NC(C(CSCC1=CC=C(C=C1)OC)(C)C)=O)CSCC1=CC=CC=C1)=O)CCCCNC(=O)OCC1=CC=CC=C1)=O | C38H49N3O7S2
